US07071201B2
Example 44: Synthesis of 1-{1-[4-(2-dimethylaminoethoxy)phenethyl]piperidin-4-yl}indoline
N,N-Dimethylformamide (2.5 ml) was added to 1-[1-(4-hydroxyphenethyl)piperidin-4-yl]indoline (0.1 g), potassium carbonate (0.081 g) and 2-dimethylaminoethyl chloride hydrochloride (0.078 g) followed by stirring at 80° C. overnight (12 hr). After allowing to cool, the resultant mixture was mixed with ethyl acetate (200 ml) and the layers were separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (0.052 g) as a brown oil (yield: 27.0%).

reactant | N,N-Dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
reactant | 1-[1-(4-hydroxyphenethyl)piperidin-4-yl]indoline | 0.1 g | OC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C21H26N2O
reactant | potassium carbonate | 0.081 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 0.078 g | Cl.CN(CCCl)C
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-{1-[4-(2-dimethylaminoethoxy)phenethyl]piperidin-4-yl}indoline | 0.052 g, yield: 27.0% | CN(CCOC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1)C | C25H35N3O
